US06428912B1
Preparation of Tris (6-oxidobenzanthrone) aluminum [Al(6-oboa)3]
6-Hydroxy benzanthrone (1.0 g) was placed in a 100 mL round-bottom flask. Dry toluene (50 mL) was added to the flask together with aluminum chloride (0.113 g). The solution turned yellow-orange, and a precipitate began to form. The mixture was refluxed at 110° C. overnight. The flask was then cooled and the contents filtered. Crude yield 0.62 g, mp>300° C.

reactant | 6-Hydroxy benzanthrone | 1.0 g | OC=1C=CC2=CC=CC=3C4=CC=CC=C4C(C1C32)=O | C17H10O2
reactant | aluminum chloride | 0.113 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | Tris (6-oxidobenzanthrone) aluminum | [Al+3].[O-]C=1C=CC2=CC=CC=3C4=CC=CC=C4C(C1C32)=O.[O-]C=3C=CC2=CC=CC=1C4=CC=CC=C4C(C3C12)=O.[O-]C=1C=CC2=CC=CC=3C4=CC=CC=C4C(C1C32)=O | InChI=1S/3C17H10O2.Al/c3*18-14-9-8-10-4-3-7-12-11-5-1-2-6-13(11)17(19)16(14)15(10)12;/h3*1-9,18H;/q;;;+3/p-3
